US08980911B2
A mixture of (4-bromo-2,6-dichlorophenyl)(1H-pyrrolo[3,2-c]pyridin-1-yl)methanone (200 mg, 0.54 mmol), sodium azide (105 mg, 1.62 mmol), copper (II) iodide (30 mg, 0.16) and N,N′-dimethylethane-1,2-diamine (26 mg, 0.32 moles) in ethanol (2 mL) and water (0.5 mL) was heated in a sealed vial at 90° C. for 16 hours. The reaction mixture was concentrated to remove ethanol and the residue was diluted with water (50 mL) and extracted with ethyl acetate (2×50 mL). The combined organic portion was dried over anhydrous sodium sulphate and concentrated under vacuum to give the crude product which was purified by silica gel column chromatography using ethyl acetate and hexane as eluent to yield (4-amino-2,6-dichlorophenyl)(1H-pyrrolo[3,2-c]pyridin-1-yl)methanone (75 mg, 45%).

reactant | (4-bromo-2,6-dichlorophenyl)(1H-pyrrolo[3,2-c]pyridin-1-yl)methanone | 0.54 mmol, 200 mg | BrC1=CC(=C(C(=C1)Cl)C(=O)N1C=CC=2C=NC=CC21)Cl | C14H7BrCl2N2O
reactant | sodium azide | 1.62 mmol, 105 mg | [N-]=[N+]=[N-].[Na+]
reactant | N,N′-dimethylethane-1,2-diamine | 0.32 moles, 26 mg | CNCCNC | C4H12N2
solvent | ethanol | 2 mL | C(C)O | C2H6O
solvent | water | 0.5 mL | O | H2O
catalyst | copper (II) iodide | 30 mg | [Cu](I)I
product | (4-amino-2,6-dichlorophenyl)(1H-pyrrolo[3,2-c]pyridin-1-yl)methanone | 75 mg, 45% | NC1=CC(=C(C(=C1)Cl)C(=O)N1C=CC=2C=NC=CC21)Cl | C14H9Cl2N3O
